US07485634B2
Preparation of 1,2,3,6-Tetrahydroazepino[4,5-b]indole-2,5-dicarboxylic Acid 5-Ethyl Ester
To a suspension of diethyl 1,2,3,6-tetrahydroazepino[4,5-b]indole-2,5-dicarboxylate (0.48 g, 1.46 mmol) in MeOH (6 mL) was added 4 N aqueous LiOH (1 mL) and the suspension was stirred for 2 hours at 20° C. Solvent was removed and the crude was dissolved in water (50 mL). The aqueous solution was then extracted with EtOAc (3×30 mL) and acidified with HOAc. Precipitate appeared and were collected by filtration and washed with water and EtOAc, then dried under high vacuum to give the title compound (300 mg); 1H-NMR (MeOH-d4): δ 8.06 (1H, s), 7.54 (1H, dd), 7.44 (1H, dd), 7.12 (2H, m), 4.43 (3H, m), 3.61 (1H, d), 3.41 (1H, m), 1.49 (3H, t); MS (ES): 301 (MH+).

reactant | diethyl 1,2,3,6-tetrahydroazepino[4,5-b]indole-2,5-dicarboxylate | 1.46 mmol, 0.48 g | C1C(NC=C(C=2NC=3C=CC=CC3C21)C(=O)OCC)C(=O)OCC | C18H20N2O4
reactant | LiOH | 4 N, 1 mL | [Li+].[OH-]
solvent | MeOH | 6 mL | CO | CH4O
product | 1,2,3,6-Tetrahydroazepino[4,5-b]indole-2,5-dicarboxylic Acid 5-Ethyl Ester | 300 mg | C(C)OC(=O)C1=CNC(CC2=C1NC=1C=CC=CC21)C(=O)O | C16H16N2O4
